US07524882B2
5-Methoxy-benzofuran-2-carboxylic acid methyl ester (2.2 g, 10 mmol) and 10% Pd-C (0.44 g) in ethanol (50 mL) were agitated under hydrogen (45 psi) for 72 hrs. The reaction mixture was filtered and the filtrate was concentrated. The residue was chromatographed on silica gel eluting with 8:2 hexane:ethyl acetate to give 1.3 g 5-methoxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester

reactant | 5-Methoxy-benzofuran-2-carboxylic acid methyl ester | 10 mmol, 2.2 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C11H10O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd-C | 0.44 g | [Pd] | Pd
product | 5-methoxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester | 1.3 g | COC(=O)C1OC2=C(C1)C=C(C=C2)OC | C11H12O4
